US04359420
1.65 g (6 mmol) of 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde-3-oxime are heated to boiling under reflux for 4.5 hours in 15 ml of acetic acid anhydride and the mixture is evaporated. The residue is taken up in 100 ml of chloroform and the solution is washed once with saturated sodium hydrogen carbonate solution and once with water. The chloroform solution is dried over magnesium sulphate and concentrated. After column chromatography and recrystallisation from ethyl acetate, there is obtained 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile of melting point 236°-237° C.

reactant | 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde-3-oxime | 6 mmol, 1.65 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C=NO)C)=O)C1 | C13H11FN4O2
solvent | acetic acid anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile | FC=1C=CC2=C(C(N(CC=3N2C=NC3C#N)C)=O)C1 | C13H9FN4O
